US04526894
To 6.0 grams of ethyl 2-amino-5-chlorobenzoate is added 6.4 grams of ethyl benzoylacetate, the mixture is heated at 180° to 190° C. for ten hours, cooled, crystals separated out therefrom are collected by filtration, and washed with methanol to give 5.1 grams of ethyl 2-benzoylacetylamino-5-chlorobenzoate, colorless needles. To 200 ml of ethanol is added 640 mg of metal sodium, then 4.8 grams of ethyl 2-benzoylacetylamino-5-chlorobenzoate is added thereto, the mixture is heated to reflux for two hours, cooled, poured into ice water, adjusted to pH 3 with 10% hydrochloric acid, crystals separated out therefrom are collected by filtration, and recystallized from dimethylformamide and methanol to give 1.9 grams of 3-benzoyl-6-chloro-4-hydroxy-2-quinoline, pale yellow needles, melting at above 300° C.

reactant | ethyl 2-amino-5-chlorobenzoate | 6.0 grams | NC1=C(C(=O)OCC)C=C(C=C1)Cl | C9H10ClNO2
reactant | ethyl benzoylacetate | 6.4 grams | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
product | ethyl 2-benzoylacetylamino-5-chlorobenzoate | 5.1 grams | C(C1=CC=CC=C1)(=O)CC(=O)NC1=C(C(=O)OCC)C=C(C=C1)Cl | C18H16ClNO4
